US06593335B1
9-(5-bromo-2-hydroxyphenyl)-2,3,5,6,7,9-hexahydrothieno[3,2-b]quinolin-8(4H)-one 1,1-dioxide
5-Bromosalicylaldehyde (0.201 g, 1.0 mmol), tetrahydrothiophene-3-oxo-1,1-dioxide (0.13 g, 1.0 mmol), 3-amino-2-cyclohexen-1-one (0.11 g, 1.0 mmol) and triethylamine (0.85 mL) were heated in ethanol (4 mL) to 80 ° C. in a sealed tube for 72 hours, cooled, and solvent evaporated. The crude intermediate in ethanol (5 mL) was treated with 1.0 M HCl in ether (1 mL), heated to reflux for 1 hour, cooled, the solid precipitate collected, washed with ethanol and dried to provide 0.13 g of the title compound as an orange-yellow solid.

reactant | 5-Bromosalicylaldehyde | 1.0 mmol, 0.201 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | tetrahydrothiophene-3-oxo-1,1-dioxide | 1.0 mmol, 0.13 g | C1CS(=O)(=O)CC1=O | C4H6O3S
reactant | 3-amino-2-cyclohexen-1-one | 1.0 mmol, 0.11 g | NC1=CC(CCC1)=O | C6H9NO
reactant | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 9-(5-bromo-2-hydroxyphenyl)-2,3,5,6,7,9-hexahydrothieno[3,2-b]quinolin-8(4H)-one 1,1-dioxide | 0.13 g | BrC=1C=CC(=C(C1)C1C2=C(NC=3CCCC(C13)=O)CCS2(=O)=O)O | C17H16BrNO4S
